US05972975
Step B: 5-Amino-4-methyl-2-(trimethylacetyl)aminopyridine
A solution of 5-nitro-4-methyl-2-trimethylacetylaminopyridine (4.5 g, 18.97 mmol) in 50 mL of acetic acid containing 10% palladium/carbon was hydrogenated at atmospheric pressure for 48 h. The catalyst was removed by filtration and the filtrate was concentrated. The residue was coevaporated with toluene to give the title compound.

reactant | 5-nitro-4-methyl-2-trimethylacetylaminopyridine | 18.97 mmol, 4.5 g | [N+](=O)([O-])C=1C(=CC(=NC1)NC(C(C)(C)C)=O)C | C11H15N3O3
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 5-Amino-4-methyl-2-(trimethylacetyl)aminopyridine | NC=1C(=CC(=NC1)NC(C(C)(C)C)=O)C | C11H17N3O
